US07319099B2
Preparation of 4-isopropoxy-N-methyl-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzamide
To 0.3 mmol 4-isopropoxy-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzoic acid in 2 ml DMF was added 0.4 mmol CDI, and the mixture heated at 50° C. for 30 min. 5.2 mmol methylamine (41% aq solution) was then added, and the mixture was stirred at RT for 16 h. The mixture was then cooled to room temperature, concentrated in vacuo, and the residue chromatographed on silica gel (eluant: ethyl acetate) to afford the title compound. MS (m/e): 450.1 (M+H+, 100%)

reactant | 4-isopropoxy-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzoic acid | 0.3 mmol | C(C)(C)OC1=C(C=C(C(=O)O)C=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C22H23F3N2O4
reactant | CDI | 0.4 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methylamine | 5.2 mmol | CN | CH5N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-isopropoxy-N-methyl-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzamide | C(C)(C)OC1=C(C=C(C(=O)NC)C=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C23H26F3N3O3
